US07507729B2
a) (rac.)-(Tetrahydro-furan-2-yl)-acetic acid hydrazide
A solution of (rac.)-(tetrahydro-furan-2-yl)-acetic acid ethyl ester (3.84 g, 24 mmol) in n-butanol (24 mL) was treated with hydrazine hydrate (1.4 mL, 29 mmol) and the resulting mixture was then heated under reflux for 3 h. The solvent was evaporated and residual volatile components were azeotropically removed by coevaporation with toluene. Chromatographic purification (SiO2, dichloromethane:methanol:aq.ammonia (25%)=100:0:0 to 90:10:1) afforded the title compound as a viscous, colorless oil (1.1 g, 32%). 1H-NMR (300 MHz, DMSO): δ=1.45 (mc, 1H), 1.70-1.95 (m, 3H), 2.13 (dd, J=6 Hz, J=14 Hz, 1H), 2.24 (dd, J=7 Hz, J=14 Hz, 1H), 3.56 (dd, J=8 Hz, J=14 Hz, 1H), 3.72 (dd, J=7 Hz, J=14 Hz, 1H), 4.05 (mc, 1H), 4.16 (s, 2H), 8.94 (s, 1H).

reactant | (rac.)-(tetrahydro-furan-2-yl)-acetic acid ethyl ester | 24 mmol, 3.84 g | C(C)OC(CC1OCCC1)=O | C8H14O3
reactant | hydrazine hydrate | 29 mmol, 1.4 mL | O.NN
solvent | n-butanol | 24 mL | C(CCC)O | C4H10O
product | (rac.)-(Tetrahydro-furan-2-yl)-acetic acid hydrazide | O1C(CCC1)CC(=O)NN | C6H12N2O2
